US08048909B2
Methyl 5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate
Using methyl 5-bromo-1H-pyrrole-3-carboxylate (2.89 g), sodium hydride (60% in oil, 850 mg), 15-crown-5 (4.69 g) and 3-methylsulfonylbenzenesulfonyl chloride (4.38 g), a procedure as in Reference Example 146 was performed to give the title compound as white crystals (yield 5.50 g, 92%).

reactant | methyl 5-bromo-1H-pyrrole-3-carboxylate | 2.89 g | BrC1=CC(=CN1)C(=O)OC | C6H6BrNO2
reactant | sodium hydride | 850 mg | [H-].[Na+]
reactant | 15-crown-5 | 4.69 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3-methylsulfonylbenzenesulfonyl chloride | 4.38 g | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO4S2
product | Methyl 5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate | yield 5.50 g, 92% | BrC1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)OC | C13H12BrNO6S2
